US06552017B1
3-[(4-fluorophenyl)sulfonyl]propanoic acid (3 g, 15 mmol) was dissolved in dichloromethane (30 mL ) and cooled to 0° C. in an ice bath. Oxalyl chloride (10 mL) was added slowly, dimethyl formamide (1 drop) was added and the reaction mixture was stirred at 0° C. for 0.5 hours. At which point the reaction was concentrated under reduced pressure to a residue, then resuspended in dichloromethane and cooled to 0° C. in an ice bath, CS2 (1 mL) was added and AlCl3 (4 g, 15 mmol) was added slowly. The reaction mixture was then allowed to warm to room temperature and stirred over night. Ice chips and water (250 mL) were added and stirred. Concentrated hydrogen chloride was added until pH of 2, and extracted with dichloromethane (3×150 mL). Organics were combined, washed with brine (1×100 mL) and water (1×100 mL), dried (sodium sulfate), and concentrated to a yellow solid. The solid was purified by flash column chromatography on 100 g silica gel, eluting 10% ethyl acetate in hexanes to give 6-fluoro-2,3-dihydro-4H-1-benzothiopyran-4-one (2.55 g, 93%). 1H NMR (CDCl3, 300 MHz): δ 7.80-7.76 (m, 1H), 7.27-7.23 (m, 2H), 7.15-7.09 (m, 1H), 3.23 (t, 2H, J=6.4 Hz), 2.97 (t, 2H, J=6.4 Hz) ppm.

reactant | 3-[(4-fluorophenyl)sulfonyl]propanoic acid | 15 mmol, 3 g | FC1=CC=C(C=C1)S(=O)(=O)CCC(=O)O | C9H9FO4S
reactant | Oxalyl chloride | 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 15 mmol, 4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | dimethyl formamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | 6-fluoro-2,3-dihydro-4H-1-benzothiopyran-4-one | 2.55 g, 93% | FC=1C=CC2=C(C(CCS2)=O)C1 | C9H7FOS
